US09302996B2
50% Aqueous hydroxylamine solution (40 g) was added to a methanol (100 mL) and tetrahydrofuran (100 mL) solution containing methyl 3-[4-(5-cyanopyridin-2-yl)-phenoxy]-2,2-dimethylpropanoate (6.0 g), and the mixture was stirred at 80° C. for 4 hours. After cooling the reaction mixture to room temperature, the mixture was concentrated under reduced pressure. To the obtained residue were added ethyl acetate and water, and the liquids were separated. The organic layer was separated, washed with water, and dried over anhydrous sodium sulfate. Ether was added to the solid residue obtained by concentrating the mixture under reduced pressure to pulverize the same, and the solid was collected by filtration and dried to obtain methyl 3-(4-{5-[amino(hydroxyimino)methyl]pyridin-2-yl}phenoxy)-2,2-dimethylpropanoate (5.8 g).

reactant | hydroxylamine | 40 g | NO | H3NO
reactant | methanol | 100 mL | CO | CH4O
reactant | methyl 3-[4-(5-cyanopyridin-2-yl)-phenoxy]-2,2-dimethylpropanoate | 6.0 g | C(#N)C=1C=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C18H18N2O3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 3-(4-{5-[amino(hydroxyimino)methyl]pyridin-2-yl}phenoxy)-2,2-dimethylpropanoate | 5.8 g | NC(C=1C=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1)=NO | C18H21N3O4
